US05284828
To a solution of (S)-α-benzyloxycarbonyl-γ-methylbutyl isocyanate (1.50 g) in ethyl acetate (60 ml) was added hexahydro-1H-azepine (722 mg) at room temperature. After being stirred for 30 minutes at the same temperature, the solution was washed with 5% HCl, 1M sodium bicarbonate solution and saturated sodium chloride solution successively, and dried over anhydrous magnesium sulfate. The solution was concentrated in vacuo to give N-(hexahydro-1H-azepin-1-ylcarbonyl)-L-Leucine benzyl ester (2.06 g) as a crystal.

reactant | (S)-α-benzyloxycarbonyl-γ-methylbutyl isocyanate | 1.50 g | C(C1=CC=CC=C1)OC(=O)[C@H](CC(C)C)N=C=O | C14H17NO3
reactant | hexahydro-1H-azepine | 722 mg | N1CCCCCC1 | C6H13N
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | N-(hexahydro-1H-azepin-1-ylcarbonyl)-L-Leucine benzyl ester | 2.06 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N1CCCCCC1)CC(C)C)=O | C20H30N2O3
